US07378415B2
To a 1 liter flask was added 500 mg of a 5% dispersion of palladium metal on charcoal. The solid was wetted with 40 mL of ethanol and the flask was charged with a solution of 5-benzenesulfonyl-2-nitro-phenol (17.35 g., 62.1 mmol) in 350 mL ethanol. The flask was purged with hydrogen gas and a pressure of 1 Atm was maintained for 2 hours. The reaction mixture was filtered through celite, the filtrate concentrated in vacu, and the resulting residue was purified by flash (1:1:2 of “magic base” (6:1:0.1 methylene chloride:methanol:ammonia):CH2Cl2:hexanes.) The resulting solid was recrystallized from 300 mL EtOAc to give 7.68 g (31 mmol, 50%) of 2-amino-5-benzenesulfonyl-phenol as crystalline solid. MS: 250 (M+H)+.

reactant | 5-benzenesulfonyl-2-nitro-phenol | 62.1 mmol, 17.35 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C12H9NO5S
solvent | ethanol | 350 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-amino-5-benzenesulfonyl-phenol | 31 mmol, 7.68 g, 50% | NC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)O | C12H11NO3S
